US04134924
2-CYCLOHEXENYL 2-CYCLOPENTENYL ETHER
A two-phase reaction mixture containing 2-cyclopentenyl acetate (0.30 g, 2.4 millimols), 2-cyclohexenol (0.50 g, 5.1 millimols), tetrabutylammonium hydrogen sulfate (0.020 g, 0.06 millimols), and water (0.25 g, 13.9 millimols) was heated at 40° C with vigorous stirring for four hours. Acetone was then added to give a one-phase system for analytical purposes, and the solution was analyzed by gas chromatography using an Apiezon column programmed from 60 to 220° C. The following relative peak areas were observed for the cyclic components:

reactant | 2-cyclopentenyl acetate | 2.4 millimols, 0.30 g | C(C)(=O)OC1C=CCC1 | C7H10O2
reactant | 2-cyclohexenol | 5.1 millimols, 0.50 g | C1(C=CCCC1)O | C6H10O
reactant | water | 13.9 millimols, 0.25 g | O | H2O
catalyst | tetrabutylammonium hydrogen sulfate | 0.06 millimols, 0.020 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Acetone | CC(=O)C | C3H6O
product | 2-CYCLOHEXENYL 2-CYCLOPENTENYL ETHER | C1(C=CCC1)OC1C=CCCC1 | C11H16O
